US07872009B2
To the crude (4R,5R)-benzyl 4-allyl-2,2-dimethyl-5-phenyloxazolidine-3-carboxylate (1.29 g, 3.66 mmol) in THF (50 mL) and water (20 mL) was added osmium tetroxide (0.45 ml, 0.0180 mmol, 4%) solution. The reaction was stirred for 10 min, after which sodium periodate (3.91 g, 18.3 mmol) was added portion wise over 1 hr. Stirring was continued for 2 h. Saturated aqueous Na2S2O3 was added and the reaction was stirred for 15 min. The volatiles were removed in vacuo and the aqueous residue extracted with Et2O (3×50 mL). The combined ether layers were washed with water (20 mL), brine (20 mL), dried over Na2SO4, filtered and concentrated. The crude residue was evaporated onto silica gel and purified via flash chromatography (0% to 20%; EtOAc in hexanes) to afford (4R,5R)-benzyl 2,2-dimethyl-4-(2-oxoethyl)-5-phenyloxazolidine-3-carboxylate. MS m/z=354 [M+1]+. Calc'd for C21H23NO4: 353.

reactant | (4R,5R)-benzyl 4-allyl-2,2-dimethyl-5-phenyloxazolidine-3-carboxylate | 3.66 mmol, 1.29 g | C(C=C)[C@H]1N(C(O[C@@H]1C1=CC=CC=C1)(C)C)C(=O)OCC1=CC=CC=C1 | C22H25NO3
reactant | sodium periodate | 18.3 mmol, 3.91 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
catalyst | osmium tetroxide | 0.0180 mmol, 0.45 ml | [Os](=O)(=O)(=O)=O
product | (4R,5R)-benzyl 2,2-dimethyl-4-(2-oxoethyl)-5-phenyloxazolidine-3-carboxylate | CC1(O[C@@H]([C@H](N1C(=O)OCC1=CC=CC=C1)CC=O)C1=CC=CC=C1)C | C21H23NO4
